US07531576B2
N′-[(2′-Nitro-1,1′-biphenyl-4-yl)methyl]-N′-pentyl-N-(2,4,6-trifluorophenyl)urea (196.0 mg) and anhydrous tin(II) chloride (401.6 mg) were added to ethanol (4 mL), and the mixture was heated under reflux. One hour later, the solvent was distilled off, and ethyl acetate (15 mL) and a saturated sodium bicarbonate solution (15 mL) were added to the residue. The resultant precipitate was filtered off through Celite. The filtrate was extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure to afford N′-[(2′-amino-1,1′-biphenyl-4-yl)methyl]-N′-pentyl-N-(2,4,6-trifluorophenyl)urea (179.2 mg). Yield: 94%.

reactant | N′-[(2′-Nitro-1,1′-biphenyl-4-yl)methyl]-N′-pentyl-N-(2,4,6-trifluorophenyl)urea | 196.0 mg | [N+](=O)([O-])C1=C(C=CC=C1)C1=CC=C(C=C1)CN(C(NC1=C(C=C(C=C1F)F)F)=O)CCCCC | C25H24F3N3O3
reactant | tin(II) chloride | 401.6 mg | [Sn](Cl)Cl
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | N′-[(2′-amino-1,1′-biphenyl-4-yl)methyl]-N′-pentyl-N-(2,4,6-trifluorophenyl)urea | 179.2 mg, Yield: 94% | NC1=C(C=CC=C1)C1=CC=C(C=C1)CN(C(NC1=C(C=C(C=C1F)F)F)=O)CCCCC | C25H26F3N3O
